US06403610B1
A mixture of 13.7 g of dimethyl sulfoxide in 65 cm3 of dichloromethane was slowly added, with stirring and under an inert atmosphere, to a solution, cooled to a temperature in the region of −60° C., of 8.3 cm3 of oxalyl chloride in 65 cm3 of dichloromethane. After stirring the mixture for 15 minutes, 10 g of (3R,4R)-3-(2-hydroxyethyl)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-(tert-butyloxycarbonyl)piperidine, dissolved in 65 cm3 of dichloromethane, were slowly added. After stirring the mixture for 30 minutes, 61.7 cm3 of triethylamine, dissolved in 65 cm3 of dichloromethane, were finally added dropwise. The mixture was stirred for a further 3 hours at approximately −60° C. and then poured onto 400 cm3 of ice-cold water. After separating the mixture by settling, the organic phase was washed with 400 cm3 of a 10% (by mass) aqueous citric acid solution and then dried over magnesium sulfate, filtered, and evaporated under reduced pressure (5 kPa) at a temperature in the region of 40° C. 9.95 g of (3R,4R)-4-[3-oxo-3-(6-methoxyquinolin-4-yl)propyl]-1-(tert-butyloxycarbonyl)piperidine-3-acetaldehyde were obtained in the form of an. oil with a brown color.

reactant | dimethyl sulfoxide | 13.7 g | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 8.3 cm3 | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (3R,4R)-3-(2-hydroxyethyl)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-(tert-butyloxycarbonyl)piperidine | 10 g | OCC[C@H]1CN(CC[C@H]1CCC(C1=CC=NC2=CC=C(C=C12)OC)O)C(=O)OC(C)(C)C | C25H36N2O5
reactant | triethylamine | 61.7 cm3 | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 65 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 65 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 65 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 65 cm3 | ClCCl | CH2Cl2
product | (3R,4R)-4-[3-oxo-3-(6-methoxyquinolin-4-yl)propyl]-1-(tert-butyloxycarbonyl)piperidine-3-acetaldehyde | 9.95 g | O=C(CC[C@H]1[C@H](CN(CC1)C(=O)OC(C)(C)C)CC=O)C1=CC=NC2=CC=C(C=C12)OC | C25H32N2O5
